2154-05-07 07:39:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2154-5-6**] 01:48 PM
 DIALYSIS CATHETER - START [**2154-5-6**] 08:00 PM
   Dialyzed yesterday.
   Remained intubated overnight as patient became agitated yesterday when
   weaning sedation. Vomited x 1. G tube placed. Draining bilious fluid
   with black flecks.
   Weaned sedation this morning. Responding appropriately.
   On interview, patient responds to verbal stimuli.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2154-5-6**] 04:30 PM
   Vancomycin - [**2154-5-6**] 10:00 PM
   Infusions:
   Propofol - 40 mcg/Kg/min
   Labetalol - 0.5 mg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-5-6**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-5-7**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.7
C (98.1
   HR: 79 (69 - 87) bpm
   BP: 180/93(114) {144/62(43) - 229/152(170)} mmHg
   RR: 21 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.7 kg (admission): 68.1 kg
   Height: 68 Inch
             Total In:
                                                                  1,126 mL
                                                                    430 mL
   PO:
             TF:
   IVF:
                                                                  1,126 mL
                                                                    430 mL
   Blood products:
   Total out:
                                                                  5,087 mL
                                                                    362 mL
   Urine:
                                                                     87 mL
                                                                     62 mL
   NG:
   300 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,961 mL
                                                                     68 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 457 (416 - 457) mL
   PS : 5 cmH2O
   RR (Spontaneous): 21
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   162 K/uL
   11.6 g/dL
   108 mg/dL
   10.2 mg/dL
   28 mEq/L
   4.4 mEq/L
   61 mg/dL
   89 mEq/L
   135 mEq/L
   33.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2154-5-6**]  01:30 PM
                             [**2154-5-6**]  09:18 PM
                             [**2154-5-7**]  04:40 AM
   WBC
   8.8
   8.0
   Hct
   32.0
   33.4
   33.1
   Plt
   221
   162
   Cr
   12.6
   9.3
   10.2
   TropT
   0.08
   0.12
   0.12
   Glucose
   436
   123
   108
   Other labs: PT / PTT / INR:13.3/24.9/1.1, CK / CKMB /
   Troponin-T:845/6/0.12, ALT / AST:104/58, Alk Phos / T Bili:85/0.4,
   Lactic Acid:1.1 mmol/L, Albumin:3.7 g/dL, LDH:397 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   A/P: Mr. [**Known lastname **] is a 33 yo man with ESRD and poorly-controlled
   hypertension presenting with dyspnea, tachycardia and
   hypertensive urgency.
   .
   # Tachypnea: Noted to have pulmonary edema on initial CXR, improved on
   follow up post intubation.  CTA showed severe bilateral ground-glass
   opacity representative of pulmonary edema and question of pulmonary
   alveolar hemorrhage. [**Month (only) 60**] be secondary to severely elevated blood
   pressure.
   - D/C empiric antibiotics
   - Serial CXRs
   - HD for volume removal
   - Optimize blood pressure control
   - Check sputum cultures, blood cultures
   - No anticoagulation as question of pulmonary alveolar hemorrhage.
   .
   # Hypertensive urgency:
   - continue labetalol gtt
   - HD
   - Start oral antihypertensives as tolerated.  As an outpatient he takes
   Toprol, Nifedipine, Lisinopril.  Will start with Toprol as pt admitted
   with elevated potassium.
   .
   # Hematemesis: ? whether patient may have coagulopathy [**12-29**] uremia. Diff
   includes bleeding gastric ulcer, gastritis, [**Doctor First Name 1856**] [**Doctor Last Name **] tear
   - NG tube in place
   - NG lavage
   - consider GI consult if persistent bleeding
   - D/C heparin SC
   - continue IV PPI
   .
   # ESRD on HD: HD per his outpt regimen, on Monday, Wednesday, Friday.
   - Continue sevelamer
   - Appreciate renal input
   - monitor lytes
   .
   # Anion gap acidosis: likely secondary to renal failure and uremia
   - monitor lytes
   .
   # Hyperkalemia: Presented with K of 6.5, repeat was 5.3.  After
   receiving succinylcholine for intubation K increased to 7.4.  EKG
   showed peaked T waves, TW inversions.  He received calcium, insulin and
   glucose in the ED. Now corrected.
   - monitor lytes
   .
   # FEN
   - replete lytes PRN
   .
   # ACCESS: PIV x3
   - L chest hemodialysis catheter
   .
   # PPx
   - Heparin sub-q for DVT prophylaxis
   - replete lytes PRN
   - bowel meds
   .
   # CODE: FULL
   .
   # COMMUNICATION:
   - Sister [**Telephone/Fax (1) 3070**]
   .
   #DISPO: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2154-5-6**] 01:26 PM
   18 Gauge - [**2154-5-6**] 01:27 PM
   Dialysis Catheter - [**2154-5-6**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2154-05-07 10:22:00 Physician Attending Progress Note
Chief Complaint: resp failure, HTN urgency
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   HTN urgency, resp distress, gg on CT
   24 Hour Events:
 EKG - At [**2154-5-6**] 01:48 PM
 DIALYSIS CATHETER - START [**2154-5-6**] 08:00 PM
   Cocaine + on urine tox
   Remained intubated overnight.
   Dialysed yesterday.
   Sedation weaned to propofol 40mcg/kg/min. RSBI 50 this morning.
   Patient unable to provide history: Sedated, intubated
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2154-5-6**] 04:30 PM
   Vancomycin - [**2154-5-6**] 10:00 PM
   Infusions:
   Labetalol - 0.5 mg/min
   Propofol - 40 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2154-5-6**] 10:00 PM
   Other medications:
   ISS,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-5-7**] 10:21 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37
C (98.6
   HR: 71 (69 - 87) bpm
   BP: 181/98(117) {144/62(43) - 229/152(170)} mmHg
   RR: 20 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.7 kg (admission): 68.1 kg
   Height: 68 Inch
             Total In:
                                                                  1,126 mL
                                                                    590 mL
   PO:
             TF:
   IVF:
                                                                  1,126 mL
                                                                    590 mL
   Blood products:
   Total out:
                                                                  5,087 mL
                                                                    385 mL
   Urine:
                                                                     87 mL
                                                                     85 mL
   NG:
   300 mL
   Stool:
   Drains:
   Balance:
                                                                 -3,961 mL
                                                                    205 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (416 - 467) mL
   PS : 0 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 15 cmH2O
   SpO2: 100%
   ABG: ///28/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   right tunneled line looks fine
   Abdominal: Soft, Non-tender, Bowel sounds present, OG tube with dark
   hem+ fluid
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: No(t) Muscle wasting
   Skin:  Warm
   Neurologic: Responds to: Verbal stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   11.6 g/dL
   162 K/uL
   108 mg/dL
   10.2 mg/dL
   28 mEq/L
   4.4 mEq/L
   61 mg/dL
   89 mEq/L
   135 mEq/L
   33.1 %
   8.0 K/uL
        [image002.jpg]
                             [**2154-5-6**]  01:30 PM
                             [**2154-5-6**]  09:18 PM
                             [**2154-5-7**]  04:40 AM
   WBC
   8.8
   8.0
   Hct
   32.0
   33.4
   33.1
   Plt
   221
   162
   Cr
   12.6
   9.3
   10.2
   TropT
   0.08
   0.12
   0.12
   Glucose
   436
   123
   108
   Other labs: PT / PTT / INR:13.3/24.9/1.1, CK / CKMB /
   Troponin-T:845/6/0.12, ALT / AST:104/58, Alk Phos / T Bili:85/0.4,
   Lactic Acid:1.1 mmol/L, Albumin:3.7 g/dL, LDH:397 IU/L, Ca++:7.6 mg/dL,
   Mg++:1.8 mg/dL, PO4:7.1 mg/dL
   Assessment and Plan
   Resp failure
   appropriate for extubation
   HTN urgency
   increase labetolol gtt
   PO antihypertensives via NGT
   CT with gg opac: edema vs hemorrhage in setting of HTN and cocaine
   Repeat CXR
   Hematemesis
   gastric lavage
   considering possibility of two sources of bleeding, may have
   coagulopathy- poss uremic platelets
   ESRD- renal service appreciated
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2154-5-6**] 01:26 PM
   18 Gauge - [**2154-5-6**] 01:27 PM
   Dialysis Catheter - [**2154-5-6**] 08:00 PM
   Prophylaxis:
   DVT: (stop anticoag with current bleeding)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35
   Patient is critically ill

2154-05-08 07:26:00 Physician Resident Progress Note
Chief Complaint: Hypertensive Urgency, Hematemesis
   24 Hour Events:
   Plan for HD today. NPO for EGD this am. Extubated yesterday am. NG tube
   placed and lavage performed with minimal coffe ground emesis. No
   actiive bleeding. Vanc and Levoflox DC'd yesterday
 EKG - At [**2154-5-7**] 04:45 PM
   History obtained from [**Hospital 85**] Medical records
   Allergies:
   History obtained from [**Hospital 85**] Medical recordsNo Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2154-5-6**] 04:30 PM
   Vancomycin - [**2154-5-6**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history: None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-5-8**] 07:26 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.6
C (96
   HR: 64 (63 - 85) bpm
   BP: 132/65(80) {128/44(62) - 221/128(147)} mmHg
   RR: 19 (14 - 29) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.7 kg (admission): 68.1 kg
   Height: 68 Inch
                  Total In:
                                                                    903 mL
                                                                    150 mL
   PO:
                  TF:
   IVF:
                                                                    903 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                     77 mL
   Urine:
                                                                    170 mL
                                                                     77 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    433 mL
                                                                     73 mL
   Respiratory support
   O2 Delivery Device: None
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (467 - 467) mL
   PS : 5 cmH2O
   RR (Spontaneous): 20
   PEEP: 0 cmH2O
   FiO2: 40%
   SpO2: 95%
   ABG: ///23/
   Ve: 9.4 L/min
   Physical Examination
   General Appearance: Well nourished, No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: No(t) Systolic,
   No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: CTAB
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Responds to: Not assessed, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   184 K/uL
   10.9 g/dL
   87 mg/dL
   13.9 mg/dL
   23 mEq/L
   4.5 mEq/L
   77 mg/dL
   96 mEq/L
   142 mEq/L
   30.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2154-5-6**]  01:30 PM
                             [**2154-5-6**]  09:18 PM
                             [**2154-5-7**]  04:40 AM
                             [**2154-5-7**]  05:12 PM
                             [**2154-5-8**]  05:32 AM
   WBC
   8.8
   8.0
   5.2
   Hct
   32.0
   33.4
   33.1
   35.5
   30.7
   Plt
   221
   162
   184
   Cr
   12.6
   9.3
   10.2
   13.9
   TropT
   0.08
   0.12
   0.12
   Glucose
   436
   123
   108
   87
   Other labs: PT / PTT / INR:12.8/26.0/1.1, CK / CKMB /
   Troponin-T:845/6/0.12, ALT / AST:104/58, Alk Phos / T Bili:85/0.4,
   Lactic Acid:1.1 mmol/L, Albumin:3.7 g/dL, LDH:397 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:10.0 mg/dL
   Imaging: CXR [**2154-5-7**] - IMPRESSION:
   1. The feeding tube is in satisfactory location.
   2. The endotracheal tube has been removed.
   3. Low lung volume accentuating the size of the heart which is mildly
   enlarged. No definite infiltrate is seen.
   4.Hydrated lungs secondary to volume oveload.
   [**2154-5-6**] CT Chest IMPRESSION:
   1. Diffuse bilateral ground-glass alveolar opacity concerning for
   pulmonary
   alveolar hemorrhage. The cause is unclear but may be related to
   underlying
   pulmonary -renal syndrome (Vasculitides) such as Goodpasture's
   syndrome,
   Wegener's granulomatosis, and systemic lupus erythematosis. Recommend
   clinical
   correlation.
   2. Bilateral dependent atelectasis, right greater than left.
   3. Small, likely chronic segmental pulmonary embolus in right upper
   lobe.
   4. Hepatic hypodensity in the right lobe, too small to characterize.
   5. Large calcified right upper pole renal lesion of unclear etiology,
   may be
   a calcified cyst. This lesion was previously seen on ultrasound.
   6. ETT and CV catheter in standard positions.
   Microbiology:     Source: Endotracheal.
                               **FINAL REPORT [**2154-5-6**]**
      GRAM STAIN (Final [**2154-5-6**]):
         <10 PMNs and >10 epithelial cells/100X field.
         Gram stain indicates extensive contamination with upper
   respiratory
         secretions. Bacterial culture results are invalid.
         PLEASE SUBMIT ANOTHER SPECIMEN.
      RESPIRATORY CULTURE (Final [**2154-5-6**]):
         TEST CANCELLED, PATIENT CREDITED.
   Assessment and Plan
   /P: Mr. [**Known lastname **] is a 33 yo man with ESRD and poorly-controlled
   hypertension presenting with dyspnea, tachycardia and
   hypertensive urgency.  Now HD stable.
   .
   # Hypertensive urgency: Weaned off labetalol gtt yest. BP stabalized on
   po meds.
   - Plan for HD today
   - Continue oral antihypertensives.  As an outpatient he takes Toprol,
   Nifedipine, Lisinopril.  Will continue lisinopril, nifedipine. Given
   cocaine history, will change toprol to labetalol 300mg [**Hospital1 **]
   .
   # Hematemesis: ? whether patient may have coagulopathy [**12-29**] uremia. Diff
   includes bleeding gastric ulcer, gastritis, [**Doctor First Name 1856**] [**Doctor Last Name **] tear. NG
   lavage with no signs of active bleeding. HCT stable. GI evaluated yest,
   appreciate recs. Will plan for outpatient EGD.
   - continue PPI
   .
   # ESRD on HD: HD per his outpt regimen, on Monday, Wednesday, Friday.
   - Continue sevelamer
   - Appreciate renal input
   - monitor lytes
   .
   # Tachypnea: Resolved. Noted to have pulmonary edema on initial CXR,
   improved on follow up.  CTA showed severe bilateral ground-glass
   opacity representative of pulmonary edema and question of pulmonary
   alveolar hemorrhage. [**Month (only) 60**] be secondary to severely elevated blood
   pressure. Resp status stable, no O2 requirement.
   - D/C empiric antibiotics
   - HD for volume removal
   - Optimize blood pressure control
   - Cultures negative to date
   .
   # Anion gap acidosis: likely secondary to renal failure and uremia
   - monitor lytes, stable
   .
   # Hyperkalemia: Presented with K of 6.5, repeat was 5.3.  After
   receiving succinylcholine for intubation K increased to 7.4.  EKG
   showed peaked T waves, TW inversions.  He received calcium, insulin and
   glucose in the ED. Now corrected.
   .
   # FEN
   - replete lytes PRN
   .
   # ACCESS: PIV x3
   - L chest hemodialysis catheter
   .
   # PPx
   - Heparin sub-q for DVT prophylaxis
   - replete lytes PRN
   - bowel meds
   .
   # CODE: FULL
   .
   # COMMUNICATION:
   - Sister [**Telephone/Fax (1) 3070**]
   .
   #DISPO: Stable for discharge following HD
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   16 Gauge - [**2154-5-6**] 01:26 PM
   18 Gauge - [**2154-5-6**] 01:27 PM
   Dialysis Catheter - [**2154-5-6**] 08:00 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition: DC home following HD

2154-05-08 10:59:00 Physician Attending Progress Note
Chief Complaint: HTN
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
 EKG - At [**2154-5-7**] 04:45 PM
   extubated yesterday morning.
   NGT lavage for hem + aspirate, minimal on lavage.
   antibiotics stopped.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2154-5-6**] 04:30 PM
   Vancomycin - [**2154-5-6**] 10:00 PM
   Infusions:
   Other ICU medications:
   Other medications:
   off drips
   gabapentin, ppi, lisinopril, metoprolol, nifedipine
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2154-5-8**] 10:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.7
C (96.2
   HR: 67 (63 - 85) bpm
   BP: 137/87(100) {119/39(56) - 221/128(147)} mmHg
   RR: 18 (14 - 29) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 65.7 kg (admission): 68.1 kg
   Height: 68 Inch
                  Total In:
                                                                    903 mL
                                                                    150 mL
   PO:
                  TF:
   IVF:
                                                                    903 mL
   Blood products:
   Total out:
                                                                    470 mL
                                                                     77 mL
   Urine:
                                                                    170 mL
                                                                     77 mL
   NG:
                                                                    300 mL
   Stool:
   Drains:
   Balance:
                                                                    433 mL
                                                                     73 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///23/
   Physical Examination
   General Appearance: Well nourished, No acute distress, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Verbal
   stimuli, Oriented (to): x3, Movement: Purposeful, Tone: Not assessed
   Labs / Radiology
   10.9 g/dL
   184 K/uL
   87 mg/dL
   13.9 mg/dL
   23 mEq/L
   4.5 mEq/L
   77 mg/dL
   96 mEq/L
   142 mEq/L
   30.7 %
   5.2 K/uL
        [image002.jpg]
                             [**2154-5-6**]  01:30 PM
                             [**2154-5-6**]  09:18 PM
                             [**2154-5-7**]  04:40 AM
                             [**2154-5-7**]  05:12 PM
                             [**2154-5-8**]  05:32 AM
   WBC
   8.8
   8.0
   5.2
   Hct
   32.0
   33.4
   33.1
   35.5
   30.7
   Plt
   221
   162
   184
   Cr
   12.6
   9.3
   10.2
   13.9
   TropT
   0.08
   0.12
   0.12
   Glucose
   436
   123
   108
   87
   Other labs: PT / PTT / INR:12.8/26.0/1.1, CK / CKMB /
   Troponin-T:845/6/0.12, ALT / AST:104/58, Alk Phos / T Bili:85/0.4,
   Lactic Acid:1.1 mmol/L, Albumin:3.7 g/dL, LDH:397 IU/L, Ca++:7.6 mg/dL,
   Mg++:2.0 mg/dL, PO4:10.0 mg/dL
   Assessment and Plan
   HTN
   stable on PO meds
   transition from metoprolol to labetolol given active cocaine use
   HD currently
   GIB likely attributable to OG tube- no hematemsis, nausea, vomiting-
   outpatient workup
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   16 Gauge - [**2154-5-6**] 01:26 PM
   18 Gauge - [**2154-5-6**] 01:27 PM
   Dialysis Catheter - [**2154-5-6**] 08:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :D/C Home
   Total time spent: